US08404709B2
4-(3-Acetyl-5-isopropoxy-2-methyl-1,4-dihydro-1,6-naphthyridin-4-yl)benzonitrile
100 mg (0.32 mmol) of 4-(3-acetyl-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)-benzonitrile are suspended in DMF (4 ml), and 14 mg (0.36 mmol) of sodium hydride (60% in mineral oil) are added. Then 34 μl (0.34 mmol) of 2-iodopropane are added to the dark red solution. The solution is stiffed at RT for 24 h, then mixed with methanol and purified by preparative HPLC. 18 mg (16% of theory) of the title compound are obtained as a white solid.

reactant | 4-(3-acetyl-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)-benzonitrile | 0.32 mmol, 100 mg | C(C)(=O)C1=C(NC=2C=CNC(C2C1C1=CC=C(C#N)C=C1)=O)C | C18H15N3O2
reactant | sodium hydride | 0.36 mmol, 14 mg | [H-].[Na+]
reactant | 2-iodopropane | 0.34 mmol, 34 μl | IC(C)C | C3H7I
reactant | methanol | CO | CH4O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-(3-Acetyl-5-isopropoxy-2-methyl-1,4-dihydro-1,6-naphthyridin-4-yl)benzonitrile | C(C)(=O)C1=C(NC2=CC=NC(=C2C1C1=CC=C(C#N)C=C1)OC(C)C)C | C21H21N3O2
